US07056932B2
(RS)-N-(2-amino-4-cyano-benzyl)-2-ethoxy-2-(4-fluoro-1,3-dioxo-1,3-dihydro-isoindol-2-yl)-acetamide (0.060 g) was treated in MeOH (1 ml) successively with 2-fluoro-benzaldehyde (56 mg) and 1 ml of a MeOH-solution containing scrupulously dried ZnCl2 (83 mg) and NaCNBH3 (29 mg). The reaction mixture was stirred for 6 h at 50–55° C., poured onto crashed ice and extracted two times with ethyl acetate. The combined organic layers were washed with water and brine and dried over magnesium sulfate. The solvent was removed under reduced pressure and the residue purified by column chromatography (silica gel, hexane/AcOEt=6/4) to yield (RS)-N-[4-cyano-2-(2-fluoro-benzylamino)-benzyl ]-2-ethoxy-2-(4-fluoro-1,3-dioxo-1,3-dihydro-isoindol-2-yl)-acetamide (58 mg) as yellow oil, MS 505.4 ([M+H]+).

reactant | (RS)-N-(2-amino-4-cyano-benzyl)-2-ethoxy-2-(4-fluoro-1,3-dioxo-1,3-dihydro-isoindol-2-yl)-acetamide | 0.060 g | NC1=C(CNC(C(N2C(C3=CC=CC(=C3C2=O)F)=O)OCC)=O)C=CC(=C1)C#N | C20H17FN4O4
reactant | 2-fluoro-benzaldehyde | 56 mg | FC1=C(C=O)C=CC=C1 | C7H5FO
reactant | NaCNBH3 | 29 mg | [BH3-]C#N.[Na+]
solvent | MeOH | 1 ml | CO | CH4O
catalyst | ZnCl2 | 83 mg | [Cl-].[Cl-].[Zn+2]
solvent | MeOH | 1 ml | CO | CH4O
product | (RS)-N-[4-cyano-2-(2-fluoro-benzylamino)-benzyl ]-2-ethoxy-2-(4-fluoro-1,3-dioxo-1,3-dihydro-isoindol-2-yl)-acetamide | 58 mg | C(#N)C1=CC(=C(CNC(C(N2C(C3=CC=CC(=C3C2=O)F)=O)OCC)=O)C=C1)NCC1=C(C=CC=C1)F | C27H22F2N4O4
